US06352982B1
In a mixture of ethyl acetate (8 ml) and methanol (10 ml) was dissolved N-methyl-N-methyloxy-2-benzyloxycarbonylamino-5-methyloxy-benzamide (0.55 g). To the solution was added 10% palladium-carbon (0.1 g). The mixture was stirred for 40 minutes at ordinary temperature under atmospheric pressure in hydrogen streams. The reaction mixture was subjected to filtration, and the filtrate was concentrated under reduced pressure. From the concentrate, N-methyl-N-methyloxy 2-amino-5-methyloxy-benzamide (0.35 g) was obtained.

reactant | N-methyl-N-methyloxy-2-benzyloxycarbonylamino-5-methyloxy-benzamide | 0.55 g | CN(C(C1=C(C=CC(=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)OC | C18H20N2O5
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | N-methyl-N-methyloxy 2-amino-5-methyloxy-benzamide | 0.35 g | CN(C(C1=C(C=CC(=C1)OC)N)=O)OC | C10H14N2O3
